** sch_path: /home/leo/projects/cheetah_v4_analog/dependencies/sky130_iic_ip__audiodac_v1/xschem/sky130_iic_ip__audiodac_drv.sch
.subckt sky130_iic_ip__audiodac_drv out_p vdd in_hi in_p in_n vss out_n
*.PININFO in_p:I in_n:I out_p:O out_n:O vdd:I in_hi:I vss:I
x1 vdd drv_p drv_n in_hi in_p in_n vss audiodac_drv_ls
x2 vdd net1 net2 vss audiodac_drv_latch
x3 vdd drv_p out_p vss net1 audiodac_drv_half
x4 vdd drv_n out_n vss net2 audiodac_drv_half
XMdecouple vdd vss vdd vdd sky130_fd_pr__pfet_g5v0d10v5 L=10 W=55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
.ends

* expanding   symbol:  audiodac_drv_ls.sym # of pins=7
** sym_path: xschem/audiodac_drv_ls.sym
** sch_path: /home/leo/projects/cheetah_v4_analog/dependencies/sky130_iic_ip__audiodac_v1/xschem/audiodac_drv_ls.sch
.subckt audiodac_drv_ls vdd_hi out_p out_n vdd_lo in_p in_n vss_lo
*.PININFO in_p:I in_n:I out_p:O out_n:O vdd_hi:I vss_lo:I vdd_lo:I
XM6 out_p out_n vdd_hi vdd_hi sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 out_n out_p vdd_hi vdd_hi sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 casc1 in_p vss_lo vss_lo sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=10 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 casc2 in_n vss_lo vss_lo sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=10 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out_n vdd_lo casc1 vss_lo sky130_fd_pr__nfet_05v0_nvt L=0.9 W=50 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out_p vdd_lo casc2 vss_lo sky130_fd_pr__nfet_05v0_nvt L=0.9 W=50 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  audiodac_drv_latch.sym # of pins=4
** sym_path: xschem/audiodac_drv_latch.sym
** sch_path: /home/leo/projects/cheetah_v4_analog/dependencies/sky130_iic_ip__audiodac_v1/xschem/audiodac_drv_latch.sch
.subckt audiodac_drv_latch vdd_hi in_p in_n vss
*.PININFO in_p:I in_n:I vdd_hi:I vss:I
XM19 in_n in_p vdd_hi vdd_hi sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 in_n in_p vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM20 in_p in_n vdd_hi vdd_hi sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM17 in_p in_n vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  audiodac_drv_half.sym # of pins=5
** sym_path: xschem/audiodac_drv_half.sym
** sch_path: /home/leo/projects/cheetah_v4_analog/dependencies/sky130_iic_ip__audiodac_v1/xschem/audiodac_drv_half.sch
.subckt audiodac_drv_half vdd_hi in out vss crosscon

.ends

.end
